US04207341
8.9 g Ethyl 4-aminophenylacetate are suspended in 200 ml. toluene. After the addition of 4 ml pyridine, a solution of 10.2 g 5-chloro-2-methoxybenzoyl chloride in 10 ml toluene is added dropwise thereto and the reaction mixture heated under reflux for 2 hours. After cooling, the toluene phase is successively shaken out with dilute hydrochloric acid, aqueous sodium bicarbonate solution and water and thereafter dried and evaporated. The evaporation residue is then recrystallized twice from ethanol to give 12.2 g (70% of theory) ethyl 4-(5-chloro-2-methoxybenzamido)-phenylacetate; m.p. 104° C.

reactant | Ethyl 4-aminophenylacetate | 8.9 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | 5-chloro-2-methoxybenzoyl chloride | 10.2 g | ClC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6Cl2O2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(5-chloro-2-methoxybenzamido)-phenylacetate | 12.2 g, 70% | ClC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)C1)OC | C18H18ClNO4
